US05045558
The 4-[1-(1-imidazolyl)-butyl]-benzonitrile is reacted with phenylmagnesium bromide under standard conditions analogously to example 11 in tetrahydrofuran. 0.83 g of 4-[1-(1-imidazolyl)-butyl]-benzophenone with a boiling point of 175° C./0.03 mbar is obtained.

reactant | 4-[1-(1-imidazolyl)-butyl]-benzonitrile | N1(C=NC=C1)C(CCC)C1=CC=C(C#N)C=C1 | C14H15N3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[1-(1-imidazolyl)-butyl]-benzophenone | 0.83 g | N1(C=NC=C1)C(CCC)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C20H20N2O
